US04324796
2-(5-Phenylpentyl)oxirane-2-carboxylic acid
3 g of sodium 2-(5-phenylpentyl)oxirane-2-carboxylate are thoroughly shaken with 70 ml of ice-cold 1 N hydrochloric acid and 50 ml of diethyl ether; the organic phase is collected, dried over sodium sulfate and concentrated. 1.7 g of the title compound remain as a viscous, colorless oil.

reactant | sodium 2-(5-phenylpentyl)oxirane-2-carboxylate | 3 g | C1(=CC=CC=C1)CCCCCC1(OC1)C(=O)[O-].[Na+]
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
product | 2-(5-Phenylpentyl)oxirane-2-carboxylic acid | C1(=CC=CC=C1)CCCCCC1(OC1)C(=O)O | C14H18O3
